US08097759B2
4-Chloro-N-(3,5-dichlorophenyl)-2-hydroxybenzamide (Compound No. 151)
Using 4-chlorosalicylic acid and 3,5-dichloroaniline as the raw materials, the same operation as the example 16 gave the title compound.

reactant | 4-chlorosalicylic acid | ClC=1C=C(C(C(=O)O)=CC1)O | C7H5ClO3
reactant | 3,5-dichloroaniline | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
product | 4-Chloro-N-(3,5-dichlorophenyl)-2-hydroxybenzamide | Yield: 57.2% | ClC1=CC(=C(C(=O)NC2=CC(=CC(=C2)Cl)Cl)C=C1)O | C13H8Cl3NO2
